US03975524
1-(1-Oxido-thiomorpholino)-3-piperazino-5-methyl-isoquinoline
8.4 gm (0.086 mol) of 34.8% hydrogen peroxide were added dropwise to a suspension of 28.5 gm (0.078 mol) of 1-thiomorpholino-3-piperazino-5-methyl-isoquinoline hydrochloride in 160 ml of 2 N sulfuric acid at 0°C, and the mixture was stirred for 2 hours at 15°-20°C. The mixture was then made alkaline with concentrated sodium hydroxide and exhaustively extracted with a mixture of chloroform and ethanol (3:1). The organic phase was isolated, washed with water and sodium chloride solution, dried and evaporated, and the residue was recrystallized from 150 ml of isopropanol. Yield: 11.6 gm (43% of theory); m.p. 201°-203°C.

reactant | hydrogen peroxide | 0.086 mol, 8.4 gm | OO | H2O2
reactant | 1-thiomorpholino-3-piperazino-5-methyl-isoquinoline hydrochloride | 0.078 mol, 28.5 gm | Cl.S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)C)N1CCNCC1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 2 N, 160 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(1-Oxido-thiomorpholino)-3-piperazino-5-methyl-isoquinoline | O=S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)C)N1CCNCC1 | C18H24N4OS
